US05214181
5-Hydroxy-N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteinyl]pentylamine (compound No. 33)
To a stirred solution of S-benzyl-N-(3-benzylthio-2,2-dimethyl-propionyl)-L-cysteine (4.18 g) and N-hydroxysuccinimide (1.15 g) in DMF (10 ml), DCC (2.06 g) dissolved in DMF (10 ml) was added dropwise under ice cooling and the mixture was stood overnight. The mixture was filtered and 5-aminopentanol (1.55 g) dissolved in DMF (30 ml) was added to the filtrate. The mixture was stirred for 3 hr. at room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. Ethyl acetate layer was washed with saturated sodium bicarbonate solution, water and then saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 3.4 g (69%) of the titled compound.

reactant | S-benzyl-N-(3-benzylthio-2,2-dimethyl-propionyl)-L-cysteine | 4.18 g | C(C1=CC=CC=C1)SC[C@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)C(=O)O | C22H27NO3S2
reactant | N-hydroxysuccinimide | 1.15 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Hydroxy-N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteinyl]pentylamine | 3.4 g, 69% | OC(CCCCN)C([C@@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)CSCC1=CC=CC=C1)=O | C27H38N2O3S2
